US05852017
e) 1-Ethyl-6-nitro-7-(1-pyrrolyl)-2,3(1H,4H)-quinoxalinedione
0.9 g (3.5 mmol) of 7-amino-1-ethyl-6-nitro-2,3(1H,4H)-quinoxalinedione and 0.58 g (4.4 mmol) of 2,5-dimethoxytetrahydrofuran in 20 ml of acetic acid were refluxed for 2 h. The mixture was then concentrated under reduced pressure, and the residue was purified by chromatography on silica gel (mobile phase: toluene/acetone/acetic acid=10:10:1) to yield 0.7 g (68%) of the product. Melting point >300° C.

reactant | 7-amino-1-ethyl-6-nitro-2,3(1H,4H)-quinoxalinedione | 3.5 mmol, 0.9 g | NC1=C(C=C2NC(C(N(C2=C1)CC)=O)=O)[N+](=O)[O-] | C10H10N4O4
reactant | 2,5-dimethoxytetrahydrofuran | 4.4 mmol, 0.58 g | COC1OC(CC1)OC | C6H12O3
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 1-Ethyl-6-nitro-7-(1-pyrrolyl)-2,3(1H,4H)-quinoxalinedione | 0.7 g, 68% | C(C)N1C(C(NC2=CC(=C(C=C12)N1C=CC=C1)[N+](=O)[O-])=O)=O | C14H12N4O4
